US07427632B2
3-Chloro-N-[1-(4-fluorophenyl)-2-(piperidin-4-ylmethoxy)-ethyl]-1H-indole-6-carboxamide
Using deprotection method B, but without addition of anisole, 4-{2-[(3-chloro-1H-indole-6-carbonyl)amino]-2-(4-fluorophenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester (2.3 g, 4.3 mmol) afforded, after purification (SiO2: 25% isopropyl amine in ethyl acetate), 1.0 g (54%) of the title compound.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-{2-[(3-chloro-1H-indole-6-carbonyl)amino]-2-(4-fluorophenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | 4.3 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=CC=C(C=C1)F)NC(=O)C1=CC=C2C(=CNC2=C1)Cl | C28H33ClFN3O4
product | 3-Chloro-N-[1-(4-fluorophenyl)-2-(piperidin-4-ylmethoxy)-ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=CC=C(C=C1)F | C23H25ClFN3O2
